US05013477
A solution of 1 g of β-[trans-4-[trans-4-(2-(1,3-dioxolan-2-yl)ethyl)cyclohexyl]cyclohexyl]-4-fluorostyrene in 10 ml of toluene and 5 ml of ethanol is hydrogenated with 500 mg of 5 percent palladium-charcoal at room temperature and under normal pressure until the hydrogen uptake comes to a standstill. The black suspension is subsequently filtered. Evaporation of the filtrate gives 1-[2-[trans-4-[trans-4-(2-(1,3-dioxolan-2-yl)ethyl)cyclohexyl]cyclohexyl]ethyl]-4-fluorobenzene.

reactant | β-[trans-4-[trans-4-(2-(1,3-dioxolan-2-yl)ethyl)cyclohexyl]cyclohexyl]-4-fluorostyrene | 1 g | O1C(OCC1)CC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C=CC1=CC=C(C=C1)F | C25H35FO2
reactant | hydrogen | [H][H] | H2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium-charcoal | 500 mg | [Pd] | Pd
product | 1-[2-[trans-4-[trans-4-(2-(1,3-dioxolan-2-yl)ethyl)cyclohexyl]cyclohexyl]ethyl]-4-fluorobenzene | O1C(OCC1)CC[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC1=CC=C(C=C1)F | C25H37FO2
